US04278681
A mixture of 74.5 g (0.5 mol) of L-glutamic acid, 54 g (0.5 mol) of benzaldehyde, 41 g (1.0 mol) of sodium hydroxide, and 1 liter of water was stirred at room temperature for 3 hours. A 5 g portion of 10% palladium on carbon catalyst was added and the mixture hydrogenated for 83 minutes at 51 psig. The catalyst was filtered and the pH of the filtrate was adjusted to 4.2 with 1 N HCl. The solids were filtered, washed with water and dried to give 55.1 g of N-benzyl-L-glutamic acid mp 151°-153° dec., [α]D23 +16° (c4, 1 N HCl). (c 4.1, 1 N HCl). Concentration of the filtrate gave a second crop of 24.9 g, mp 157°-158° dec., [α]D23 +16° (c 4, 1 N HCl).

reactant | L-glutamic acid | 0.5 mol, 74.5 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | benzaldehyde | 0.5 mol, 54 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | 1.0 mol, 41 g | [OH-].[Na+]
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | 1 liter | O | H2O
product | N-benzyl-L-glutamic acid | 55.1 g | C(C1=CC=CC=C1)N[C@@H](CCC(=O)O)C(=O)O | C12H15NO4
